US06245746B1
(D) Nα,Nδ-Bis-Boc-D-ornithyl-N-(phenethyl)glycine 2-Naphthylamide
A solution (0° C.) of Nα,Nδ-bis-Boc-D-ornithine (130 mg, 0.39 mmol), diisopropylethylamine (1.6 mmol) and methylene chloride (10 mL) was treated with PyBroP (275 mg, 0.59 mmol) and kept at 0° C. for 30 min. In another reaction, a solution of Boc-N-(phenethyl)glycine 2-naphthylamide (240 mg, 0.59 mmol) (made by coupling of N-Boc-N-(phenethyl)glycine and 2-naphthylamine) and trifluoroacetic acid (3 mL) was stored at 24° C. for 1 hr and then concentrated in vacuo. The residue was coevaporated twice with methylene chloride and the resultant solid resuspended in methylene chloride (10 mL) and treated with diisopropylethylamine (1.2 mmol). The two solutions were mixed and stirred at 25° C. for 1 hr at which time the mixture was washed with 1M hydrochloric acid (2×25 mL), sat. sodium bicarbonate (25 mL), and brine (25 mL). The organic layer was dried over anhydrous sodium sulfate and adsorbed onto silica gel (500 mg) and applied to a column prepacked with silica gel. The column was eluted with ethyl acetate:hexane (50:50, v:v) to afford the titled compound.

reactant | Nα,Nδ-bis-Boc-D-ornithine | 0.39 mmol, 130 mg | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C15H28N2O6
reactant | diisopropylethylamine | 1.6 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBroP | 0.59 mmol, 275 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | Boc-N-(phenethyl)glycine 2-naphthylamide | 0.59 mmol, 240 mg | C1=C(C=CC2=CC=CC=C12)NC(CN(CCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C25H28N2O3
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropylethylamine | 1.2 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Nα,Nδ-Bis-Boc-D-ornithyl-N-(phenethyl)glycine 2-Naphthylamide | C1=C(C=CC2=CC=CC=C12)NC(CN(CCC1=CC=CC=C1)C([C@H](NC(=O)OC(C)(C)C)CCCNC(=O)OC(C)(C)C)=O)=O | C35H46N4O6
